US05106863
A solution of 2-hydroxymethyl-2-mercaptobenzimidazole (2.68 g, 20 mmol), geranyl chloride (3.44 g, 20 mmol), tetrabutylammonium iodide (0.740 g, 2 mmol), saturated NaHCO3 (50 mL) and CH2Cl2 (40 mL) was stirred at ambient temperature for 72 hours. The methylene chloride layer was separated, washed with water and dried over Na2SO4. Evaporation and flash chromatography (Merck Kieselgel, 5% MeOH/CH2Cl2) gave 1-[3,7-dimethyl-2,6(E)-octadienyl]-2-hydroxymethyl-1H-1,3-benzimidazole free base) (1.45 g) which was converted to its hydrochloride salt, a gray solid. m.p. 120°-123° C. NMR (DMSO-d6)δ7.80(m,4H), 5.20(m,6H), 2.90(s,3H), 2.10(m,4H), 1.64(s,3H), 1.62(s,3H).

reactant | 2-hydroxymethyl-2-mercaptobenzimidazole | 20 mmol, 2.68 g | OCC1(N=C2C(=N1)C=CC=C2)S | C8H8N2OS
reactant | geranyl chloride | 20 mmol, 3.44 g | C(\C=C(/C)\CCC=C(C)C)Cl | C10H17Cl
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
catalyst | tetrabutylammonium iodide | 2 mmol, 0.740 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-[3,7-dimethyl-2,6(E)-octadienyl]-2-hydroxymethyl-1H-1,3-benzimidazole | C\C(=C/CN1C(=NC2=C1C=CC=C2)CO)\CCC=C(C)C | C18H24N2O
